US09315490B2
86a) (1-(5-(4-Hydroxyphenyl)pyrimidin-2-yl)-3-(methylthio)-1H-indol-6-yl)(morpholino)-methanone
Synthesized from (1-(5-bromopyrimidin-2-yl)-3-(methylthio)-1H-indol-6-yl)(morpholino)methanone (400 mg, 0.923 mmol) and 4-hydroxyphenyl boronic acid (153 mg, 1.108 mmol) in analogy to procedure 1d). Pale brown solid. Yield: 280 mg (68% of theory)

reactant | (1-(5-bromopyrimidin-2-yl)-3-(methylthio)-1H-indol-6-yl)(morpholino)methanone | 0.923 mmol, 400 mg | BrC=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1CCOCC1)SC | C18H17BrN4O2S
reactant | 4-hydroxyphenyl boronic acid | 1.108 mmol, 153 mg | OC1=CC=C(C=C1)B(O)O | C6H7BO3
product | (1-(5-(4-Hydroxyphenyl)pyrimidin-2-yl)-3-(methylthio)-1H-indol-6-yl)(morpholino)-methanone | OC1=CC=C(C=C1)C=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1CCOCC1)SC | C24H22N4O3S
